US09102688B2
3-Benzylsulfanyl-5-trifluoromethyl-pyridine (Intermediate 434)
In a similar fashion using route 38 general procedure 92, 3-bromo-5-(trifluoromethyl)pyridine (400 mg, 1.76 mmol), K2CO3 (366 mg, 2.65 mmol), benzylmercaptan (330 mg, 2.65 mmol) and DMSO (3.2 ml) at 150° C. for 4 h in sealed tube gave the title compound (122 mg, 25%) after purification by column chromatography with n-hexane/EtOAc (99:1) as the eluent.

reactant | 3-bromo-5-(trifluoromethyl)pyridine | 1.76 mmol, 400 mg | BrC=1C=NC=C(C1)C(F)(F)F | C6H3BrF3N
reactant | K2CO3 | 2.65 mmol, 366 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzylmercaptan | 2.65 mmol, 330 mg | C(C1=CC=CC=C1)S | C7H8S
solvent | DMSO | 3.2 ml | CS(=O)C | C2H6OS
product | 3-Benzylsulfanyl-5-trifluoromethyl-pyridine | 122 mg, 25% | C(C1=CC=CC=C1)SC=1C=NC=C(C1)C(F)(F)F | C13H10F3NS
